US07384934B2
6-Fluoro-2-methyl-10-methylsulfanyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Stir 6-fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulene-10-thione (61.5 g, 0.233 mol) and DMF (310 mL) under nitrogen for 15 minutes at ambient temperature. Add powdered potassium carbonate (67.7 g, 0.490 mol); stir 15 minutes at ambient temperature. Add iodomethane (22 mL, 0.35 mol); stir 4 hours at ambient temperature. Cool to 0-5° C. and add deionized water (150 mL) dropwise, keeping the temperature below 15° C. Extract the product with ethyl acetate. Wash the organic solution with brine four times, then dry over magnesium sulfate, filter and concentrate under reduced pressure to give 74.0 g of crude product. Purify by flash chromatography, eluting with 2:1/methylene chloride:heptane, then methylene chloride to give 55.0 g (85%) the title compound: 1H NMR (400 MHz, DMSO-d6) δ 8.11 (bs, 1H), 6.87 (m, 1H), 6.73 (m, 1H), 6.50 (s, 1H), 6.44 (m, 1H), 2.41(s, 3H), 2.25 (s, 3H). HRMS (ES) exact mass M+H calcd for C13H11FN2S2 279.0426; found 279.0416.

reactant | 6-fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulene-10-thione | 0.233 mol, 61.5 g | FC=1C=CC2=C(NC=3SC(=CC3C(N2)=S)C)C1 | C12H9FN2S2
reactant | DMF | 310 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.490 mol, 67.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.35 mol, 22 mL | IC | CH3I
solvent | water | 150 mL | O | H2O
product | 6-Fluoro-2-methyl-10-methylsulfanyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 55.0 g, 85% | FC=1C=CC2=C(NC=3SC(=CC3C(=N2)SC)C)C1 | C13H11FN2S2
